US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(1,2,4-triazol-1-yl) piperidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
3-(1,2,4-triazol-1-yl)piperidine hydrochloride (300 mg, 1.59 mmol) and DBU (0.48 g, 3.18 mmol) were added to a suspension of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (180 mg, 0.63 mmol) in acetonitrile (15 ml). The reaction mixture was refluxed at 90° C. for 48 hrs and then concentrated under vacuum. The residue was diluted with water and aqueous solution was extracted with chloroform. The organic layer dried over Na2SO4, concentrated and the residue was diluted with water. The separated solid was filtered and washed with 2 ml of acetonitrile. Yield 13 mg, m.p. 217° C.; 1H NMR (TFA) δ: 9.75 (s, 1H), 9.40 (s, 1H), 8.78 (s, 1H), 8.20 (d, 1H), 5.10 (m, 1H), 4.58 (m, 1H), 3.52-4.40 (m, 4H), 2.55 (m, 2H), 2.20 (m, 2H), 1.30-1.70 (m, 4H).

reactant | 3-(1,2,4-triazol-1-yl)piperidine hydrochloride | 1.59 mmol, 300 mg | Cl.N1(N=CN=C1)C1CNCCC1
reactant | DBU | 3.18 mmol, 0.48 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.63 mmol, 180 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(1,2,4-triazol-1-yl) piperidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CCC1)N1N=CN=C1)F)=O)C(=O)O | C20H19F2N5O3
